US08207177B2
Step c: (1S)-N-Methylindan-1-amine, hydrochloride salt
To a solution of tert-butyl(1S)-2,3-dihydro-1H-inden-1-yl(methyl)carbamate (1.84 g, 7.44 mmol) in MeOH (50.0 mL) under an atmosphere of nitrogen was added hydrochloric acid (6.00 mL, 72.4 mmol) and the mixture was stirred overnight. The reaction was concentrated in vacuo to afford the title compound as a white solid without further purification (1.35 g, 99%). LC/MS: Rt=0.85 min, ES+ 148 (AA standard).

reactant | tert-butyl(1S)-2,3-dihydro-1H-inden-1-yl(methyl)carbamate | 7.44 mmol, 1.84 g | [C@@H]1(CCC2=CC=CC=C12)N(C(OC(C)(C)C)=O)C | C15H21NO2
reactant | hydrochloric acid | 72.4 mmol, 6.00 mL | Cl | ClH
solvent | MeOH | 50.0 mL | CO | CH4O
product | (1S)-N-Methylindan-1-amine, hydrochloride salt | Cl.CN[C@H]1CCC2=CC=CC=C12 | InChI=1S/C10H13N.ClH/c1-11-10-7-6-8-4-2-3-5-9(8)10;/h2-5,10-11H,6-7H2,1H3;1H/t10-;/m0./s1
